US08076324B2
1-Bromo-3-fluoro-5-methylsulfanylbenzene
50.0 g of 1-bromo-3,5-difluorobenzene and 18.2 g sodium methanethiolate were stirred at 150° C. for 15 min in 300 ml of anhydrous DMF. Subsequently, the mixture was cooled to room temperature, poured onto 1 l of saturated aqueous ammonium chloride solution and extracted three times with 200 ml each of EA. The combined organic phases were dried over magnesium sulfate and the solvent was removed in vacuo. 48.5 g of the title compound were obtained as a pale yellow oil.

reactant | 1-bromo-3,5-difluorobenzene | 50.0 g | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
reactant | sodium methanethiolate | 18.2 g | C[S-].[Na+]
reactant | ammonium chloride | 1 l | [Cl-].[NH4+]
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | 1-Bromo-3-fluoro-5-methylsulfanylbenzene | 48.5 g | BrC1=CC(=CC(=C1)SC)F | C7H6BrFS
